US05635103
A 100 ml, three neck round bottom flask is equipped with a stir bar, a condenser, an addition funnel, a thermometer, and a temperature control device (Therm-O-Watch™, I2R). To this reaction flask is added the 3-oxomorpholine synthesized above (5.5 g, 0.054 moles), triethylamine (Aldrich, 6.0 g, 0.059 moles), and toluene (Baker, 15.0 g). To the addition funnel is added benzoyl chloride (Aldrich, 7.6 g, 0.054 moles). The reaction is heated to 90° C. under argon, and the benzoyl chloride is charged dropwise into the flask. After the addition is complete, the reaction is heated under reflux for 10 hours under argon as a white precipitate forms. The reaction mixture is then cooled and the precipitate is removed by vacuum filtration. Solvent is stripped from the resulting filtrate on a Kugelrohr apparatus at 2 mmHg and 70° C. for 1 hour to obtain the desired N-benzoyl-3-oxomorpholine as an oil.

reactant | 3-oxomorpholine | O=C1NCCOC1 | C4H7NO2
reactant | triethylamine | 0.059 moles, 6.0 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.054 moles, 7.6 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | 15.0 g | C1(=CC=CC=C1)C | C7H8
product | N-benzoyl-3-oxomorpholine | C(C1=CC=CC=C1)(=O)N1C(COCC1)=O | C11H11NO3
